US06506772B1
4-Aminomethyl-pyridine-2,6-diamine
To a refluxing suspension of 0.5 g (3.29 mmol) 2,6-diamino-isonicotinamide in 3 ml THF was added dropwise 0.455 ml (4.8 mmol) boran-dimethylsulfide-complex and the mixture was refluxed for 4 d. After cooling to room temperature 0.548 ml 6N HCl was added and the mixture was neutralized with 2N NaOH. The mixture was concentrated under reduced pressure and the residue was purified by column chromatography on silica eluting with DCM:MeOH:NH3aq. 100:100:1 to yield 166 mg (36%) of the title compound as yellow solid.

reactant | 2,6-diamino-isonicotinamide | 3.29 mmol, 0.5 g | NC=1C=C(C(=O)N)C=C(N1)N | C6H8N4O
reactant | dimethylsulfide | CSC | C2H6S
reactant | HCl | 6N, 0.548 ml | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-Aminomethyl-pyridine-2,6-diamine | 166 mg, 36% | NCC1=CC(=NC(=C1)N)N | C6H10N4
